*
*AC to DC converter
*


.options NODE

*variables 
.param C = 20u
.param R = 20k  
.param N = 4

*Equivalent transformer circuit 
* input voltage source
*vS 1 0 0 sin(0 230/n 50 0   0 0)
vS 1 0 0 sin(0 13.5 50 0 0 0) ; 


*bridge rectifier 

Dp1 1 2 Default
Dp2 3 1 Default
Dp3 0 2 Default
Dp4 3 0 Default





*Filter capacitor(CR >> T/2, T = 0.02) 
Ci 2 3 {C} ; mudei aqui (original 10u)

*Load resistance
RL 2 3 {R}



*shunt resistance
*RS 2 15 15



*Limiter diodes 

* Dp5 15 4 Default
* Dp6 4 5 Default
* Dp7 5 6 Default
* Dp8 6 7 Default

* Dp9 7 8 Default
* Dp10 8 9 Default
* Dp11 9 10 Default
* Dp12 10 11 Default

* Dp13 11 12 Default
* Dp14 12 13 Default
* Dp15 13 14 Default
* Dp16 14 3 Default


.model Default D
.op
.end

.control

makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

****************************************
* analise no tempo .tran tstep tstop <tstart <tmax>> <uic>
tran 2.3e-4 0.2

*plot grafico
plot  v(2)-v(3) v(1)

* calculo e impressao ripple e avg

let av = v(2)-v(3)

meas tran average AVG av from=0.1 to=1.3

let av = v(2)-v(3)
meas tran ripple PP av from=0.1 to=0.2

echo op_TAB
print ripple
print average
echo op_END


****************************************
hardcopy graph1.ps v(2, 3) v(1)
echo graph1_FIG

hardcopy graph2.ps v(2, 3)-12
echo graph2_FIG

quit
.endc

.end